US04515966
PREPARATION OF 2-[2-(METHYLTHIO)ETHYL]-1,3-DIOXOLANE
Into a 100 ml reaction flask equipped with spin bar, reflux condenser, heating mantle and hot plate with magnetic stirring apparatus is placed 5 ml cyclohexane, 0.2 grams para-toluenesulfonic acid and 3.1 grams (0.05 moles) of 1,2-ethanediol. Over a period of 30 minutes, 5.2 grams (0.05 moles) of 3-methylthiopropionaldehyde is added to the reaction mass. The reaction mass is then heated to reflux and during reflux, water of formation is removed. The refluxing continues for a period of 9 hours. At the end of the 9 hour period, the reaction mass is cooled and transferred to a separatory funnel and washed with one 50 ml portion of saturated sodium chloride solution. The reaction mass is then dried over anhydrous sodium sulfate, filtered and distilled on a Microvigreux column yielding the following fractions:

reactant | para-toluenesulfonic acid | 0.2 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1,2-ethanediol | 0.05 moles, 3.1 grams | C(CO)O | C2H6O2
reactant | 3-methylthiopropionaldehyde | 0.05 moles, 5.2 grams | CCCC=S | C4H8S
solvent | cyclohexane | 5 ml | C1CCCCC1 | C6H12
product | 2-[2-(METHYLTHIO)ETHYL]-1,3-DIOXOLANE | CSCCC1OCCO1 | C6H12O2S
